US07544835B2
Dimethyl 2-{4-methoxy-3-[2-({[4-(trifluoromethyl)anilino]carbonyl}-oxy)ethyl]benzyl}malonate
Using dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate and α,α,α-trifluoro-p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C15H20O6
reactant | α,α,α-trifluoro-p-tolylisocyanate | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | Dimethyl 2-{4-methoxy-3-[2-({[4-(trifluoromethyl)anilino]carbonyl}-oxy)ethyl]benzyl}malonate | COC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CCOC(=O)NC1=CC=C(C=C1)C(F)(F)F | C23H24F3NO7
